US06476279B2
A mixture of 3-chloro-4,4,4-trifluorobut-2-enal (10 g, 0.063 mol) and THF (30 mL) is introduced to a 100 mL round-bottomed reaction flask equipped with an addition funnel and a condenser under nitrogen purge. The flask, including the reaction mixture contained therein, is immersed in a water bath, and sodium borohydride (1.2 g, 0.032 mol) is added slowly, under purge of nitrogen, via a solid addition funnel such that the reaction mixture does hot rise above 45° C. After complete addition of the sodium borohydride, the reaction mixture is stirred at ambient temperature for one hour. The reaction mixture is then poured into cold water (30 mL) with mixing and extracted with diethyl ether (2×40 mL). The ether extract is dried using magnesium sulfate, filtered and concentrated to afford 10.1 g(quantitative yield) of 3-chloro-4,4,4-trifluorobut-2-en-l-ol as a clear liquid.

reactant | 3-chloro-4,4,4-trifluorobut-2-enal | 0.063 mol, 10 g | ClC(=CC=O)C(F)(F)F | C4H2ClF3O
reactant | sodium borohydride | 0.032 mol, 1.2 g | [BH4-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-chloro-4,4,4-trifluorobut-2-en-l-ol | 10.1 g, quantitative yield | ClC(=CCO)C(F)(F)F | C4H4ClF3O
